US05120752
To a solution of trans-3-(3-(4-hydroxyphenoxy)phenyl)propenoic acid (26.22 g, 102.4 mmol) in CH2Cl2 (500 mL) at 0° C., was added iso-butylchloroformate (29.38 g, 215.1 mmol) followed by the dropwise addition of triethylamine (21.73 g, 215.1 mmol). Upon completion of addition, the cooling bath was removed and the reaction allowed to warm to r.t. and stirred for 1 hr. N,O-dimethylhydroxylamine hydrochloride (11.99 g, 122.9 mmol) was then added followed by the dropwise addition of pyridine (19.44 g, 245.8 mmol) and the reaction was stirred for 30 mins. It was then diluted with brine (500 mL) and the layers were separated. The aqueous was extracted with CH2Cl2 (2×500 mL). The organics were combined, dried with MgSO4 and concentrated. The resulting residue was chromatographed (silica gel, ether:hexanes, 1:1) to afford trans-N-methoxy-N-methyl-3-(3-(4-iso-butyloxycarboxyphenoxy)phenyl)propenamide (27.13 g, 66%).

reactant | trans-3-(3-(4-hydroxyphenoxy)phenyl)propenoic acid | 102.4 mmol, 26.22 g | OC1=CC=C(OC=2C=C(C=CC2)/C=C/C(=O)O)C=C1 | C15H12O4
reactant | iso-butylchloroformate | 215.1 mmol, 29.38 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | triethylamine | 215.1 mmol, 21.73 g | C(C)N(CC)CC | C6H15N
reactant | N,O-dimethylhydroxylamine hydrochloride | 122.9 mmol, 11.99 g | Cl.CNOC
reactant | pyridine | 245.8 mmol, 19.44 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
solvent | brine | 500 mL | [Cl-].[Na+].O
product | trans-N-methoxy-N-methyl-3-(3-(4-iso-butyloxycarboxyphenoxy)phenyl)propenamide | 27.13 g, 66% | CON(C(\C=C\C1=CC(=CC=C1)OC1=C(C=C(C=C1)OCC(C)C)C(=O)O)=O)C | C22H25NO6
